US08530521B2
Step A: cis-3,3a,4,6a-tetrahydro-2H-cyclopenta[b]furan-2-one
Tetrafluoroboric acid (2.50 mL, 15.9 mmol) was added to a solution of iodobenzene diacetate (5.10 g, 15.9 mmol) in acetic acid (13.2 mL). 2-Cyclopentene-1-acetic acid (955 μL, 7.93 mmol) was added and the solution was stirred at room temperature for 1 hour. The solution was then added to water and extracted with chloroform. The chloroform layer was extracted with water. The combined organic layers were dried (magnesium sulfate), filtered, and concentrated in vacuo. The residue was purified by silica gel chromatography (Biotage 40M), eluting with 0-100% ethyl acetate/hexanes to give the title compound as a colorless oil. 1H NMR (500 MHz, CHCl3) δ 2.22-2.31 (m, 2H), 2.67-2.84 (m, 2H), 3.05-3.15 (m, 1H), 5.44-5.51 (m, 1H), 5.79-5.86 (m, 1H), 6.01-6.07 (m, 1H).

reactant | Tetrafluoroboric acid | 15.9 mmol, 2.50 mL | F[B-](F)(F)F.[H+]
reactant | iodobenzene diacetate | 15.9 mmol, 5.10 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | 2-Cyclopentene-1-acetic acid | 7.93 mmol, 955 μL | C1(C=CCC1)CC(=O)O | C7H10O2
reactant | water | O | H2O
solvent | acetic acid | 13.2 mL | C(C)(=O)O | C2H4O2
product | cis-3,3a,4,6a-tetrahydro-2H-cyclopenta[b]furan-2-one | O1[C@@H]2[C@H](CC1=O)CC=C2 | C7H8O2
